US06417222B1
2-Fluoro-5-(3-thienyl)benzaldehyde (2b)
1.89 g of 3-thiopheneboronic acid (0.015 mol) are added to a solution of 3-bromo-6-fluorobenzaldehyde (2 g, 0.016 mol) in 35 ml of 1,2-dimethoxyethane, followed by addition of aqueous 2N sodium carbonate solution (3.13 g, 0.030 mol) and a catalytic amount of tetrakis(triphenylphosphine)palladium (0.34 g, 2.96 10−4 mol). The reaction mixture is heated at 80° C. for 20 hours and is then cooled to room temperature and poured into water. The resulting mixture is extracted with ethyl acetate and the organic phase is washed with saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulfate and filtered, and the solvent is evaporated off under reduced pressure. The title product is isolated from the black oil obtained by bulb-to-bulb distillation at 150° C. under reduced pressure (4 10−2 mmbar). 1.36 g of a pale yellow oil which solidifies are isolated.

reactant | 3-thiopheneboronic acid | 0.015 mol, 1.89 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 3-bromo-6-fluorobenzaldehyde | 0.016 mol, 2 g | BrC=1C=C(C=O)C(=CC1)F | C7H4BrFO
reactant | sodium carbonate | 0.030 mol, 2N, 3.13 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 10−4 mol, 0.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Fluoro-5-(3-thienyl)benzaldehyde | FC1=C(C=O)C=C(C=C1)C1=CSC=C1 | C11H7FOS
